US04661477
A mixture of 13.81 g. (0.1 moles) of diethyl phosphite, 20 ml. of water and 20 ml. of ethanol is reacted with a mixture of 8.51 g. (0.1 moles) of cyclopentyl amine and 30 ml. of methanol as described in Example 1. 17.9 g. of cyclopentyl-ammoniumethyl phosphonate are obtained. nD30 -1.4622. Yield: 91.7%.

reactant | diethyl phosphite | 0.1 moles | P(OCC)(OCC)[O-]
reactant | water | O | H2O
reactant | ethanol | C(C)O | C2H6O
reactant | cyclopentyl amine | 0.1 moles | C1(CCCC1)N | C5H11N
solvent | methanol | CO | CH4O
product | cyclopentyl-ammoniumethyl phosphonate | Yield: 91.7% | C(C)P([O-])([O-])=O.C1(CCCC1)[NH3+].C1(CCCC1)[NH3+] | InChI=1S/2C5H11N.C2H7O3P/c2*6-5-3-1-2-4-5;1-2-6(3,4)5/h2*5H,1-4,6H2;2H2,1H3,(H2,3,4,5)
